US07932262B2
Step 3. Preparation of 3-methoxy-2-pivalamido-6-(trifluoromethyl)benzoic acid
N-(2-methoxy-5-(trifluoromethyl)phenyl) pivalamide (1 eq) was azeotrope with toluene (x=3). Dissolved in THF, cooled to −50° C. and added n-BuLi (2 eq, 2.5M solution in hexane) dropwise. The reaction mixture was stirred at −50° C. for 1 h then warmed to −10° C. in 30 min. Stirred at this temperature for 30 min then CO2 gas was passed through cylinder into the reaction mixture at −10 to 0° C. for 1 h. The reaction mixture was warmed to room temperature and stirred overnight. The reaction was poured to water and extracted with ethyl acetate. (EtOAc extracts contained starting material). The aq layer pH was adjusted to 1-2 and product was extracted with ethyl acetate (x=3). The ethyl acetate extracts were combined, washed with brine and dried over sodium sulfate.

reactant | N-(2-methoxy-5-(trifluoromethyl)phenyl) pivalamide | 1 eq | COC1=C(C=C(C=C1)C(F)(F)F)NC(C(C)(C)C)=O | C13H16F3NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | n-BuLi | 2.5M, 2 eq | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-methoxy-2-pivalamido-6-(trifluoromethyl)benzoic acid | COC=1C(=C(C(=O)O)C(=CC1)C(F)(F)F)NC(C(C)(C)C)=O | C14H16F3NO4
